US06891066B2
2,3,4-Trifluorobenzoic acid and 2-fluoro-4-[3-(tetrahydro-2H-pyran-2-yloxy)-1-propynyl]aniline were reacted in the presence of LiHMDS solution in THF by the general procedure of Example 1, Step B. After workup, followed by purification by chromatography on silica gel (50% EtOAc/PE as eluant), 3,4-difluoro-2-{2-fluoro-4-[3-(tetrahydro-2H-pyran-2-yloxy)-1-propynyl]anilino}benzoic acid was isolated as a cream-yellow solid (68%); m.p. (Et2O/hexane) 164-166° C. 1H NMR [400 MHz, (CD3)2SO] δ 13.60 (v br s, 1 H), 9.27 (br s, 1 H), 7.83 (ddd, J=8.2, 6.1, 1.9 Hz, 1 H), 7.36 (dd, J=12.0, 1.7 Hz, 1 H), 7.21-7.11 (m, 2 H), 6.96 (td, J=8.8, 5.5 Hz, 1 H), 4.80 (br s, 1 H), 4.47 (d, J=16.0 Hz, 1 H), 4.38 (d, J=16.0 Hz, 1 H), 3.79-3.71 (m, 2 H), 3.51-3.45 (m, 2 H), 1.77-1.61 (m, 2 H), 1.56-1.44 (m, 4 H). Anal. calcd. for C21H18F3NO4: C, 62.2; H, 4.5; N, 3.5. Found C, 62.5; H, 4.4; N, 3.6. Step C: Preparation of 3,4-difluoro-2-{2-fluoro-4-[3-(tetrahydro-2H-pyran-2-yloxy)-1-propynyl]anilino}-N-(2-hydroxyethoxy)benzamide

reactant | 2,3,4-Trifluorobenzoic acid | FC1=C(C(=O)O)C=CC(=C1F)F | C7H3F3O2
reactant | 2-fluoro-4-[3-(tetrahydro-2H-pyran-2-yloxy)-1-propynyl]aniline | FC1=C(N)C=CC(=C1)C#CCOC1OCCCC1 | C14H16FNO2
reactant | LiHMDS | [Li+].C[Si](C)(C)[N-][Si](C)(C)C
solvent | THF | C1CCOC1 | C4H8O
product | 3,4-difluoro-2-{2-fluoro-4-[3-(tetrahydro-2H-pyran-2-yloxy)-1-propynyl]anilino}benzoic acid | FC=1C(=C(C(=O)O)C=CC1F)NC1=C(C=C(C=C1)C#CCOC1OCCCC1)F | C21H18F3NO4
